US08685980B2
A mixture of 5-[4-(2,2,2-trifluoro-ethyl)-piperazin-1-yl]-pyridin-2-ylamine (158 mg, 0.607 mmol), 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (118 mg, 0.405 mmol), Pd2(dba)3 (18.5 mg, 0.020 mmol), BINAP (25 mg, 0.040 mmol) and sodium-tert-butoxide (70 mg, 0.728 mmol) in dioxane (3.5 mL) is degassed and heated to 100° C. for 1 h in a CEM Discover microwave. The reaction mixture is partitioned between dichloromethane and saturated NaHCO3 solution. The organic layer is separated and the aqueous layer extracted with further dichloromethane. The combined organics are ished with brine, dried (MgSO4), filtered and concentrated. The crude product is purified using silica gel chromatography (0 to 10% methanol/dichloromethane) to give 7-cyclopentyl-2-{5-[4-(2,2,2-trifluoro-ethyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide, which is purified further by trituration with acetonitrile (115 mg, 55%). MS (ESI) m/z 517.2 (M+H)+ (method A).

reactant | 5-[4-(2,2,2-trifluoro-ethyl)-piperazin-1-yl]-pyridin-2-ylamine | 0.607 mmol, 158 mg | FC(CN1CCN(CC1)C=1C=CC(=NC1)N)(F)F | C11H15F3N4
reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.405 mmol, 118 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium-tert-butoxide | 0.728 mmol, 70 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.020 mmol, 18.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-cyclopentyl-2-{5-[4-(2,2,2-trifluoro-ethyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)CC(F)(F)F)N1C1CCCC1)C | C25H31F3N8O
